// Generated for: spectre
// Generated on: Jul  4 14:03:07 2026
// Design library name: CMOS_Inverter
// Design cell name: inverter_test
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/buet/cadence/gpdk090_v4.6/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: CMOS_Inverter
// Cell name: inverter
// View name: schematic
subckt inverter GND VDD Vin Vout
    NM0 (Vout Vin GND GND) gpdk090_nmos1v w=(2u) l=100n as=560f ad=560f \
        ps=4.56u pd=4.56u m=(1)*(1) simM=(1)*(1)
    PM0 (Vout Vin VDD VDD) gpdk090_pmos1v w=(5u) l=100n as=1.4p ad=1.4p \
        ps=10.56u pd=10.56u m=(1)*(1) simM=(1)*(1)
ends inverter
// End of subcircuit definition.

// Library name: CMOS_Inverter
// Cell name: inverter_test
// View name: schematic
I0 (0 net4 net5 Vout) inverter
V0 (net5 0) vsource type=pulse val0=0 val1=1 period=20n delay=0 rise=1n \
        fall=1n width=10n
V1 (net4 0) vsource dc=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=50n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V0 param=dc start=0 stop=1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
